OpAmpDiffHS
*SPICE Netlist generated by Advanced Sim server on 6/01/2009 11:16:10 AM

*Schematic Netlist:
CL OUT2 OUT1 100pF
RF1 INV OUTPUT1 500
RF2 RG OUTPUT2 50
RG1 NetRG1_1 INV 250
RG2 NetRG2_1 RG 250
RL OUT2 OUT1 1k
RM 0 NetRG2_1 5
RO1 OUTPUT1 OUT1 50
RO2 OUTPUT2 OUT2 50
RS INPUT NetRG1_1 10
RT 0 NetRG1_1 10
XU1 RG INV VCC VEE OUTPUT2 OUTPUT1 0 VCC LMH6552
V1 VCC 0 12V
V2 VEE 0 -12V
Vin INPUT 0 DC 0 SIN(0 0.1 10k 0 0) AC 1 0

.SAVE 0 INPUT INV NetRG1_1 NetRG2_1 OUT1 OUT2 OUTPUT1 OUTPUT2 RG VCC VEE
.SAVE V1#branch V2#branch Vin#branch @V1[z] @V2[z] @Vin[z] @CL[i] @RF1[i] @RF2[i]
.SAVE @RG1[i] @RG2[i] @RL[i] @RM[i] @RO1[i] @RO2[i] @RS[i] @RT[i] @CL[p] @RF1[p]
.SAVE @RF2[p] @RG1[p] @RG2[p] @RL[p] @RM[p] @RO1[p] @RO2[p] @RS[p] @RT[p] @V1[p]
.SAVE @V2[p] @Vin[p]

*PLOT AC -1 1 A=INPUT A=OUTPUT

*Selected Circuit Analyses:
.AC DEC 100 1 1E8

*Models and Subcircuits:
.subckt LMH6552 vip vim vcc vee vop vom vcm ven
* PINOUT ORDER +IN -IN V+ V- +OUT -OUT VCM EN
g0 a0107 a076 a0186 vee 10e-3
g1 vcc a0186 vcc vee 42e-6
d6 a0149 a083 DIODEideal 1
d5 a0151 a098 DIODEideal 1
d1 vim a0102 DIODEnoisy 1
d3 a0115 vim DIODEnoisy 1
d0 vip a050 DIODEnoisy 1
d4 a0113 vip DIODEnoisy 1
c4 vip vim 2.4e-12
c0 a0175 0 1e-12
c1 a0191 0 1e-12
q12 a0223 a076 a0189 NPNXTR 1
q2 a076 a076 a0126 NPNXTR 1
q0 a050 a076 a0130 NPNXTR 1
q9 a083 vcm a099 NPNXTR 1
q1 a0102 a076 a0128 NPNXTR 1
q10 a098 a0167 a0223 NPNXTR 1
q11 a099 a076 a0185 NPNXTR 1
q3 a0115 a0107 a085 PNPXTR 1
q5 a0107 a0107 a067 PNPXTR 1
q4 a0113 a0107 a070 PNPXTR 1
v4 a079 0 0
v7 a089 0 0
v5 a0124 0 0
v6 a0144 0 0
v2 a0180 a0223 -5e-3
v1 a050 a0102 0
i9 vip vim 2.5e-6
i5 vcc a0167 12e-6
i0 vcc a0186 0.83e-3
f7 a0102 vee v7 1
f4 vcc a0115 v4 1
f5 vcc a0113 v5 1
f6 a050 vee v6 1
f2 0 a0175 v2 1
f3 0 a0191 v2 1
f1 0 a0191 v1 -2
f0 0 a0175 v1 2
rtm 0 a0191 128e3
rtp a0175 0 128e3
r28 a089 0 200
r24 vcc ven 100e3
r25 a079 0 200
r27 a0144 0 200
r29 a0185 vee 250
r30 a0189 vee 250
r26 a0124 0 200
r31 vcc a0149 250
r32 vcc a0151 250
r20 vcc a067 250
r15 vop a0167 2.5e3
r22 vcc a070 250
r16 a0167 vom 2.5e3
r33 a099 a0180 250
rtc a0186 vee 100
r21 vcc a085 250
r19 a0126 vee 262
r17 a0130 vee 250
r18 a0128 vee 250
* P Buffer Stage
q405 a4017 a0107 a4040 PNPXTR
q402 vee a0175 a4017 PNPXTR
q400 vee a4005 a4038 PNPXTR
q407 a4005 a076 a4029 NPNXTR
q403 vcc a0175 a4005 NPNXTR
q401 vcc a4017 a4060 NPNXTR
r405 vop a4038 2
r404 a4060 vop 2
r402 a4029 vee 160
r400 vcc a4040 225
* M Buffer Stage
q505 a5017 a0107 a5040 PNPXTR
q502 vee a0191 a5017 PNPXTR
q500 vee a5005 a5038 PNPXTR
q507 a5005 a076 a5029 NPNXTR
q503 vcc a0191 a5005 NPNXTR
q501 vcc a5017 a5060 NPNXTR
r505 vom a5038 2
r504 a5060 vom 2
r502 a5029 vee 160
r500 vcc a5040 225
*************************************************************
** Model Parameters
*************************************************************
.model DIODEideal d(tnom=25.0 is=1e-18)
.model DIODEnoisy d(tnom=25.0 is=1e-18 af=2.0 kf=80e-12)
.model NPNXTR npn(tnom=25.0             is=14.42e-18            bf=121 vaf=200.0
+ rb=57.00                re=3.000 rc=7.000              cje=206.3e-15
+ cjc=81.45e-15 kf=480.0e-12          af=2.000)
.model PNPXTR pnp(tnom=25.0             is=18.92e-18            bf=79 vaf=60.00
+ rb=35.80                re=1.600 rc=3.500              cje=167.4e-15
+ cjc=126.8e-15 kf=350.0e-12          af=2.000)
.ENDS LMH6552

.END
